data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2847,3163,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C-:24]([CH3:25])[N+:26]([CH3:27])=[C:28]([C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:28]([C:29](=[O:30])[O:31][CH3:32])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[N:26]([CH3:27])[C:24]2([C:22]([NH:21][CH3:20])=[O:23])[CH3:25],water,298.15,31.79026467493908,-23.47625663490041
4819,5501,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][C:18]1([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:25]2[CH3:26],water,298.15,32.92992470338797,7.358312019965353
674,734,[CH3:17][c-:18]1[o+:19][n:20][o:21][c:22]1=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[C:18]1([CH3:17])[O:19][N:20]3[O:21][C:22]1=[O:23],water,298.15,13.526359508683964,-35.02137506923524
1423,1565,[CH3:18][NH:19][C:20](=[O:21])[CH:22]=[NH+:23][C-:24]([CH3:25])[C:26]#[N:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:24]([CH3:25])([C:26]#[N:27])[NH:23][CH:22]3[C:20]([NH:19][CH3:18])=[O:21],water,298.15,12.053158228059957,-46.03368885134847
181,198,[CH3:1][C:2]#[C:3][CH3:4].[CH:5]#[N+:6][C-:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1=[C:3]([CH3:4])[C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:6]=[CH:5]1,water,298.15,22.757599987909497,-60.58312693043724
3544,4042,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][c-:8]1[nH+:9][c:10](-[c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[o:17][c:18]1=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:8]2([CH3:7])[NH:9][C:10]1([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[O:17][C:18]2=[O:19],water,298.15,21.74780887335049,-1.2774451876254862
5240,5945,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]([CH3:19])=[NH+:20][C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:20][C:18]2([C:16]([CH3:15])=[O:17])[CH3:19],water,298.15,26.627017730902185,4.849369390739099
45,52,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][O:7][CH3:8].[CH3:9][CH-:10][O+:11]=[C:12]([CH3:13])[C:14]#[N:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:10]([CH3:9])[O:11][C:12]1([CH3:13])[C:14]#[N:15],water,298.15,11.25015930928999,-85.0145831665319
2752,3058,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21]([C:22]#[N:23])=[N+:24]([CH3:25])[N-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:21]([CH3:20])([C:22]#[N:23])[N:24]([CH3:25])[N:26]2[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,17.827528193983266,-18.467248737569182
3183,3593,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][N-:14][C:15]#[N:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([CH3:12])[NH:13][N:14]1[C:15]#[N:16],water,298.15,25.3252367713064,0.6347858096901727
3798,4348,[CH3:9][C:10](=[O:11])[CH-:12][O+:13]=[C:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:12]([C:10]([CH3:9])=[O:11])[O:13][C:14]1([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20],water,298.15,10.240527053965796,-40.18033663045629
624,684,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[C:20]#[N:21].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:18]([CH3:19])([C:20]#[N:21])[NH:17][C:14]2([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,22.52061951634121,-18.753030868316927
